US06211199B1
(1-(4-Oxopentyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine Hydriodic Acid Salt
Combine (1-(4-oxopentyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine, ethylene ketal (0.9 g, 2.0 mmol) and dichloromethane (20 mL). Cool in an ice bath and add hydriodic acid (0.53 mL, 57%, 4.05 mmol). Warm to ambient temperature. After 0.5 hours, add water (0.5 mL) and heat to reflux. After 18 hours, cool to ambient temperature and evaporate in vacuo to give the title compound.

reactant | (1-(4-oxopentyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | O=C(CCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C)C | C22H32N4O3
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | hydriodic acid | 4.05 mmol, 0.53 mL | I | HI
solvent | water | 0.5 mL | O | H2O
product | (1-(4-Oxopentyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine Hydriodic Acid Salt | I.O=C(CCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2)C | InChI=1S/C17H24N4O.HI/c1-13(22)5-4-12-21-16-7-3-2-6-15(16)20-17(21)19-14-8-10-18-11-9-14;/h2-3,6-7,14,18H,4-5,8-12H2,1H3,(H,19,20);1H
